US06432993B1
(10-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[2-(morpholin-4-yl)phenoxy]phenyl}-N-methylcarbamate
Using 1.18 g of t-butyl N-{2-amino-5-[2-(morpholin-4-yl)phenoxy]-phenyl}-N-methylcarbamate, 0.92 g of 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid, 0.53 g of diethyl cyanophosphonate, 0.33 g of triethylamine and 30 ml of anhydrous tetrahydrofuran, reaction and purification were carried out in a similar manner to Example (2-1), whereby 1.47 g of the desired compound were obtained.

reactant | t-butyl N-{2-amino-5-[2-(morpholin-4-yl)phenoxy]-phenyl}-N-methylcarbamate | 1.18 g | NC1=C(C=C(C=C1)OC1=C(C=CC=C1)N1CCOCC1)N(C(OC(C)(C)C)=O)C | C22H29N3O4
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.92 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.53 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.33 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[2-(morpholin-4-yl)phenoxy]phenyl}-N-methylcarbamate | 1.47 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=CC=C2)N2CCOCC2)N(C(OC(C)(C)C)=O)C)C=C1 | C34H38N4O8S
